US06432988B1
5-(4-Fluorophenyl)-2-[(3-methylthiophenyl)methylthio]-4-(4-pyridyl)-1H-imidazole
5-(4-Fluorophenyl)-2-[(3-methylthiophenyl)methylthio]-4-(4-pyridyl)-1H-imidazole 3-Chloromethyl-1-methylthiobenzene (690 mg, 4.1 mmol) is dissolved in 60 ml of absolute ethanol in an argon atmosphere. 5-(4-Fluorophenyl)-4-(4-pyridyl)imidazole-2-thione (1.1 g, 4.1 mmol) is introduced into this initial mixture. The reaction mixture is stirred under reflux for 11 h. The heating is removed and the orange-colored solution is subsequently stirred at RT for 61 h. The yellow precipitate is filtered off and dried. Yield: 1.21 g (73%)

reactant | 5-(4-Fluorophenyl)-2-[(3-methylthiophenyl)methylthio]-4-(4-pyridyl)-1H-imidazole 3-Chloromethyl-1-methylthiobenzene | 4.1 mmol, 690 mg | ClCC=1C=C(C=CC1)SC.FC1=CC=C(C=C1)C1=C(N=C(N1)SCC1=CC(=CC=C1)SC)C1=CC=NC=C1
reactant | 5-(4-Fluorophenyl)-4-(4-pyridyl)imidazole-2-thione | 4.1 mmol, 1.1 g | FC1=CC=C(C=C1)C=1C(=NC(N1)=S)C1=CC=NC=C1 | C14H8FN3S
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-(4-Fluorophenyl)-2-[(3-methylthiophenyl)methylthio]-4-(4-pyridyl)-1H-imidazole | FC1=CC=C(C=C1)C1=C(N=C(N1)SCC1=CC(=CC=C1)SC)C1=CC=NC=C1 | C22H18FN3S2
